US06271225B1
In the same manner as in Starting Material Synthesis Example 4 and using ethyl 2-amino-6-methylbenzo[b]thiophene-3-carboxylate (4.18 g), 2-fluoronitrobenzene (2.5 g) and dimethyl sulfoxide (50 ml), crude crystals (7.5 g) of ethyl 6-methyl-2-(2-nitroanilino)benzo[b]thiophene-3-carboxylate were obtained. Without purification, in the same manner as in Starting Material Synthesis Example 21 and using ethanol (50 ml), 18% hydrochloric acid (70 ml) and tin(II) chlorihe.dihydrate (16 g), ethyl 2-(2-aminoanilino)-6-methylbenzo[b]thiophene-3-carboxylate (3.7 g) was obtained.

reactant | ethyl 2-amino-6-methylbenzo[b]thiophene-3-carboxylate | 4.18 g | NC1=C(C2=C(S1)C=C(C=C2)C)C(=O)OCC | C12H13NO2S
reactant | 2-fluoronitrobenzene | 2.5 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | ethyl 6-methyl-2-(2-nitroanilino)benzo[b]thiophene-3-carboxylate | CC=1C=CC2=C(SC(=C2C(=O)OCC)NC2=C(C=CC=C2)[N+](=O)[O-])C1 | C18H16N2O4S
reactant | hydrochloric acid | 70 ml | Cl | ClH
reactant | tin(II) | [Sn+2]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | ethyl 2-(2-aminoanilino)-6-methylbenzo[b]thiophene-3-carboxylate | 3.7 g | NC1=C(NC2=C(C3=C(S2)C=C(C=C3)C)C(=O)OCC)C=CC=C1 | C18H18N2O2S
